* Created by KLayout
*** My special header ***

* cell opamp_r2r_ABAMP_MatsuuraHijiri
* pin AB_N
* pin AB_P
* pin CAP_N
* pin CAP_P
* pin OUT
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_ABAMP_MatsuuraHijiri AB_N AB_P CAP_N CAP_P OUT VDD VSS
* device instance $1 r0 *1 -32.6,21.6 PMOS
XM$1 VDD AB_P OUT VDD PMOS L=4u W=576u AS=895.2p AD=895.2p PS=674.6u PD=674.6u
* device instance $25 r0 *1 9.4,-51.3 NMOS
XM$25 VSS AB_N OUT VSS NMOS L=4u W=288u AS=463.2p AD=463.2p PS=350.6u PD=350.6u
* device instance $37 r90 *1 -209,-64.7 F_CSIO
XC$37 CAP_N OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.6 Y=80.6 m=2
* device instance $38 r90 *1 -209,34.7 F_CSIO
XC$38 CAP_P OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.6 Y=80.6 m=2
.ENDS opamp_r2r_ABAMP_MatsuuraHijiri
